US04097263
To a suspension of 20 g of 2-amino-5-mercapto-1,3,4 -thiadiazole in 200 ml of pyridine was added 14.6 g of propionyl chloride with cooling over a 5 minute period. After stirring the reaction mixture for 4 hours at room temperature, water was added and the resulting solid collected by filtration to give 20.2 g of 2-propionamido-5-mercapto-1,3,4-thiadiazole, m.p. 234°-237° C.

reactant | 2-amino-5-mercapto-1,3,4 -thiadiazole | 20 g | NC=1SC(=NN1)S | C2H3N3S2
reactant | propionyl chloride | 14.6 g | C(CC)(=O)Cl | C3H5ClO
reactant | water | O | H2O
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 2-propionamido-5-mercapto-1,3,4-thiadiazole | 20.2 g | C(CC)(=O)NC=1SC(=NN1)S | C5H7N3OS2
